US08633134B2
S.10 Synthesis of N-Ethyl-2-({N-hydroxy-2-methyl-4-[5-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-4,5-dihydro-isoxazol-3-yl]-benzimidoyl}-amino) -acetamide (Compound 3-13 of Table C.3)
To a solution of 2-Methyl-4-[5-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-4,5-dihydro-isoxazol-3-yl]-benzaldehyde oxime (250 mg) in DMF (8 mL) was added N-chloro succinimide (84 mg) and heated to 75° C. for 1 h. After cooling, the reaction mixture was poured onto ice-water and extracted with EtOAc. The combined organic layers were washed with water, dried (Na2SO4) and concentrated in vacuo to ¼ of the original volume to obtain the crude hydroxamic acid chloride. This mixture was added to a solution of 2-amino-N-ethyl-acetamide (61 mg) and triethylamine (0.15 mL, 0.11 g) in THF (8 mL) and stirred at room temperature over night. After concentration in vacuo, the mixture was purified by chromatography on silica gel to obtain the title compound (171 mg, 55%).

reactant | 2-Methyl-4-[5-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-4,5-dihydro-isoxazol-3-yl]-benzaldehyde oxime | 250 mg | CC1=C(C=NO)C=CC(=C1)C1=NOC(C1)(C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C19H14F6N2O2
reactant | N-chloro succinimide | 84 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-amino-N-ethyl-acetamide | 61 mg | NCC(=O)NCC | C4H10N2O
reactant | triethylamine | 0.15 mL, 0.11 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-Ethyl-2-({N-hydroxy-2-methyl-4-[5-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-4,5-dihydro-isoxazol-3-yl]-benzimidoyl}-amino) -acetamide | 171 mg, 55% | C(C)NC(CNC(C1=C(C=C(C=C1)C1=NOC(C1)(C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F)C)=NO)=O | C23H22F6N4O3
